### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Monoidal): Day convolution of functors

### PR DESCRIPTION
**Pull request by robin-carlier**
Given monoidal categories `C`,`V` and functors `F G : C ⥤ V`, we introduce a typeclass `[DayConvolution F G]` that bundles the data of a functor `F ⊛ G`, as well as the data required to exhibit `F ⊛ G` as a pointwise left Kan extension of `F ⊠ G` (the external product of `F` and `G`) along the tensor product of `C`.

We give basic API  around this class.

We also define a class `DayConvolutionUnit U` which contains the data that `U` is pointwise left Kan extended from `fromPUnit (𝟙_ V)` along `fromPUnit (𝟙_ C)`. Again, we give basic API around this class.

Properties like construction of associators and unitors isomorphisms (and the pentagon/triangle identities) will be the subject of subsequent PRs.

---

- [x] depends on: #25731

I opted to make `DayConvolution` a class to make assumptions on `C` and `V` minimal.
Also, I realized that `C ⥤ V` already has a monoidal structure (given by pointwise tensor product), so trying to turn it into a monoidal category through Day convolution is probably pointless.
What I intend to do instead is to define a typeclass `DayConvolutionMonoidalCategory A` that will extend `MonoidalCategory A`. This class will contain the data of a fully faithful functor `A ⥤ (C ⥤ V)`, and the data required to make it a "monoidal full subcategory" of `C ⥤ V`. This should allow us to register instances on type aliases for `C ⥤ V`, of course, there should be a constructor for this class that takes as input the embedding and existence of suitable pointwise extensions, and then turn it into a `DayConvolutionMonoidalCategory`. This is upcoming work 

[Open in Gitpod](https://gitpod.io/from-referrer/)

---

*This PR continues the work from #24991.*

*Original PR: https://github.com/leanprover-community/mathlib4/pull/24991*

### CODE REVIEW

File: Mathlib/CategoryTheory/Monoidal/DayConvolution.lean [hunk 1]
```diff
@@ -0,0 +1,208 @@
...
+namespace CategoryTheory.MonoidalCategory
+open scoped ExternalProduct
+
+noncomputable section
+
+variable {C : Type u₁} [Category.{v₁} C] {V : Type u₂} [Category.{v₂} V]
+  [MonoidalCategory C] [MonoidalCategory V]
+
+/-- A `DayConvolution` structure on functors `F G : C ⥤ V` is the data of
+a functor `F ⊛ G : C ⥤ V`, along with a unit `F ⊠ G to tensor C ⋙ F ⊛ G`
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/DayConvolution.lean]:
```suggestion
a functor `F ⊛ G : C ⥤ V`, along with a unit `F ⊠ G ⟶ tensor C ⋙ F ⊛ G`
```

File: Mathlib/CategoryTheory/Monoidal/DayConvolution.lean [hunk 2]
```diff
@@ -0,0 +1,208 @@
...
+  unitPointwiseKan F G|>.isLeftKanExtension
+
+variable {F G}
+
+/-- Two day convolution structures on the same functors gives an isomorphic functor. -/
+def uniqueUpToIso (h : DayConvolution F G) (h' : DayConvolution F G) :
+    h.convolution ≅ h'.convolution :=
+  Functor.leftKanExtensionUnique h.convolution h.unit h'.convolution h'.unit
+
+@[simp]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/DayConvolution.lean]:
```suggestion
@[reassoc (attr := simp)]
```

File: Mathlib/CategoryTheory/Monoidal/DayConvolution.lean [hunk 3]
```diff
@@ -0,0 +1,208 @@
...
+lemma uniqueUpToIso_hom_unit (h : DayConvolution F G) (h' : DayConvolution F G) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/DayConvolution.lean]:
```suggestion
lemma unit_uniqueUpToIso_hom (h : DayConvolution F G) (h' : DayConvolution F G) :
```

File: Mathlib/CategoryTheory/Monoidal/DayConvolution.lean [hunk 4]
```diff
@@ -0,0 +1,208 @@
...
+    h.unit ≫ CategoryTheory.whiskerLeft (tensor C) (h.uniqueUpToIso h').hom = h'.unit := by
+  simp [uniqueUpToIso]
+
+@[simp]
+lemma uniqueUpToIso_inv_unit (h : DayConvolution F G) (h' : DayConvolution F G) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/DayConvolution.lean]:
```suggestion
@[reassoc (attr := simp)]
lemma unit_uniqueUpToIso_inv (h : DayConvolution F G) (h' : DayConvolution F G) :
```

File: Mathlib/CategoryTheory/Monoidal/DayConvolution.lean [hunk 5]
```diff
@@ -0,0 +1,208 @@
...
+
+@[reassoc (attr := simp)]
+lemma unit_naturality (f : x ⟶ x') (g : y ⟶ y') :
+    (F.map f ⊗ₘ G.map g) ≫ (unit F G).app (x', y') =
+    (unit F G).app (x, y) ≫ (F ⊛ G).map (f ⊗ₘ g) := by
+  simpa [tensorHom_def] using (unit F G).naturality ((f, g) : (x, y) ⟶ (x', y'))
+
+variable (y) in
+@[reassoc (attr := simp)]
+lemma unit_naturality_id_right (f : x ⟶ x') :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/DayConvolution.lean]: Maybe `whiskerRight_comp_unit_app` (and `whiskerLeft_comp_unit_app` for the next lemma)?

File: Mathlib/CategoryTheory/Monoidal/DayConvolution.lean [hunk 6]
```diff
@@ -0,0 +1,208 @@
...
+
+/-- The morphism between day convolutions (provided they exist) induced by a pair of morphisms. -/
+def map (f : F ⟶ F') (g : G ⟶ G') : F ⊛ G ⟶ F' ⊛ G' :=
+  Functor.descOfIsLeftKanExtension (F ⊛ G) (unit F G) (F' ⊛ G') <|
+    (externalProductBifunctor C C V).map ((f, g) : (F, G) ⟶ (F', G')) ≫ unit F' G'
+
+variable (f : F ⟶ F') (g : G ⟶ G') (x y : C)
+
+@[reassoc (attr := simp)]
+lemma map_unit_app :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/DayConvolution.lean]:
```suggestion
lemma unit_app_map_app :
```

File: Mathlib/CategoryTheory/Monoidal/DayConvolution.lean [hunk 7]
```diff
@@ -0,0 +1,208 @@
...
+    (whiskeringLeft _ _ _).obj (tensor C) ⋙ coyoneda.obj (.op <| F ⊠ G) :=
+  NatIso.ofComponents
+    (fun H ↦ Equiv.toIso <| Functor.homEquivOfIsLeftKanExtension _ (unit F G) _)
+
+/-- The universal property of left Kan extensions characterizes the functor
+corepresented by `F ⊛ G`. -/
+def corepresentable :
+    (whiskeringLeft _ _ _).obj (tensor C) ⋙ coyoneda.obj (.op <| F ⊠ G)|>.CorepresentableBy
+      (F ⊛ G) :=
+  Functor.corepresentableByEquiv.symm <| corepresentableIso F G
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/DayConvolution.lean]: Maybe it would be slightly better to define directly `corepresentableBy` (because the constructor takes a family of equivs, which we have). Then, it is unclear we should keep `corepresentableIso`?

File: Mathlib/CategoryTheory/Monoidal/DayConvolution.lean [hunk 8]
```diff
@@ -0,0 +1,208 @@
...
+    (h : ∀ {x y : C} (u : x ⊗ y ⟶ c),
+      (unit F G).app (x, y) ≫ (F ⊛ G).map u ≫ f = (unit F G).app (x, y) ≫ (F ⊛ G).map u ≫ g) :
+    f = g :=
+  ((unitPointwiseKan F G) c).hom_ext (fun j ↦ by simpa using h j.hom)
+
+end
+
+end DayConvolution
+
+/-- A dayConvolutionUnit structure on a functor `C ⥤ V` is the data of a pointwise
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/DayConvolution.lean]:
```suggestion
/-- A `DayConvolutionUnit` structure on a functor `C ⥤ V` is the data of a pointwise
```

File: Mathlib/CategoryTheory/Monoidal/DayConvolution.lean [hunk 9]
```diff
@@ -0,0 +1,208 @@
...
+left Kan extension of `fromPUnit (𝟙_ V)` along `fromPUnit (𝟙_ C)`. Again, this is
+made a class to ease proofs when constructing `DayConvolutionMonoidalCategory` structures, but one
+should avoid registering it globally. -/
+class DayConvolutionUnit (F : C ⥤ V) where
+  /-- A "canonical" structure map `𝟙_ V ⟶ F.obj (𝟙_ C)` that defines a natural transformation
+  `fromPUnit (𝟙_ V) ⟶ fromPUnit (𝟙_ C) ⋙ F`. -/
+  can : 𝟙_ V ⟶ F.obj (𝟙_ C)
+  /-- The canonical map `𝟙_ V ⟶ F.obj (𝟙_ C)` exhibits `F` as a pointwise left kan extension
+  of `fromPUnit.{0} 𝟙_ V` along `fromPUnit.{0} 𝟙_ C`. -/
+  canPointwiseLeftKanExtension : Functor.LeftExtension.mk F
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/DayConvolution.lean]:
```suggestion
  isPointwiseLeftKanExtensionCan : Functor.LeftExtension.mk F
```

File: Mathlib/CategoryTheory/Monoidal/DayConvolution.lean [hunk 10]
```diff
@@ -0,0 +1,208 @@
...
+`tensor C`. This is a `class` used to prove various property of such extensions,
+but registering global instances of this class is probably a bad idea. -/
+class DayConvolution (F G : C ⥤ V) where
+  /-- The chosen convolution between the functors. Denoted `F ⊛ G`. -/
+  convolution : C ⥤ V
+  /-- The chosen convolution between the functors. -/
+  unit (F) (G) : F ⊠ G ⟶ tensor C ⋙ convolution
+  /-- The transformation `unit` exhibits `F ⊛ G` as a pointwise left Kan extension
+  of `F ⊠ G` along `tensor C`. -/
+  unitPointwiseKan (F G) :
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/DayConvolution.lean]:
```suggestion
  isPointwiseLeftKanExtensionUnit (F G) :
```

**Comment by joelriou** [comment]
Thanks!

bors merge

**Comment by bryangingechen** [comment]
Let's try again
bors r+
